US05318720
In a 20 ml-round-bottomed flask, 2.90 g (16.1 mM) of 4-acetoxybenzoic acid and 3.7 ml of thionyl chloride were placed. To the mixture, two drops of N,N-dimethylformamide was added at room temperature under stirring, followed by heat-refluxing for 20 minutes under stirring. After the reaction, dry benzene was added to the reaction mixture, followed by distilling-off of excessive thionyl chloride together with benzene. The above operation was repeated two times to obtain 4-acetoxybenzoic acid chloride. Then, in a 100 ml-round-bottomed flask, the above-prepared 4-acetoxybenzoic acid chloride, 3.10 g (15.1 mM) of 2-amino-4-octylphenol and 40 ml of dioxane were placed and heated. To the mixture, 5.5 ml of pyridine was added dropwise at 80°-84° C. under stirring, followed by further stirring for 20 minutes at 85°-88.5° C. After the reaction, the reaction mixture was cooled on an ice bath and poured into about 200 ml of ice water to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by recrystallization from methanol to obtain 4.10 g of 2-(4-acetoxybenzoylamino)-4-octylphenol (Yield: 70.8%).

reactant | 4-acetoxybenzoic acid chloride | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | 2-amino-4-octylphenol | 15.1 mM, 3.10 g | NC1=C(C=CC(=C1)CCCCCCCC)O | C14H23NO
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 5.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-acetoxybenzoylamino)-4-octylphenol | 4.10 g, Yield: 70.8% | C(C)(=O)OC1=CC=C(C(=O)NC2=C(C=CC(=C2)CCCCCCCC)O)C=C1 | C23H29NO4
